US07282588B2
1,1-dimethylethyl 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-4-hydroxy-1-piperidinecarboxylate
To a solution of isopropylamine (5.5 mmol) in THF (15 mL) cooled to −78° C. was added n-BuLi (2.5 M in hexanes, 5.5 mmol) dropwise. After stirring at −78° C. for 20 min a solution of 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (5.0 mmol) in THF (5.0 mL) was added dropwise. The resulting orange solution was stirred at −78° C. for 2 h, followed by dropwise addition of a solution of 1,1-dimethylethyl-4-oxo-1-piperidinecarboxylate (6.1 mmol) in THF (5.0 mL). After an additional 1.5 h at −78° C., the reaction mixture was warmed to room temperature and quenched with saturated NH4Cl(aq). Extraction with EtOAc (3□), washing with brine, drying (Na2SO4), filtration and concentrated in vacuo provided crude material which was purified by flash chromatography (120g SiO2, 0-5% EtOAc in CHCl3) to give the title compound as a white solid (85%). ESMS [M+H]+: 536.0.

reactant | isopropylamine | 5.5 mmol | C(C)(C)N | C3H9N
reactant | n-BuLi | 5.5 mmol, 2.5 M | [Li]CCCC
reactant | 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 5.0 mmol | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9BrN2O2S
reactant | 1,1-dimethylethyl-4-oxo-1-piperidinecarboxylate | 6.1 mmol | CC(C)(C)C1N(CCC(C1)=O)C(=O)[O-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-4-hydroxy-1-piperidinecarboxylate | 85% | BrC1=C2C(=NC=C1)N(C(=C2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)S(=O)(=O)C2=CC=CC=C2 | C23H26BrN3O5S
